US04140853
With complete analogy to Examples 5 and 6, the reaction of 4-pyridylpyridinium chloride hydrochloride with N-formylmorpholine produced, in a 59% yield, 4-morpholinopyridine, m.p. 93-95° C. (from ligroin).

reactant | 4-pyridylpyridinium chloride hydrochloride | Cl.[Cl-].N1=CC=C(C=C1)[N+]1=CC=CC=C1
reactant | N-formylmorpholine | C(=O)N1CCOCC1 | C5H9NO2
product | 4-morpholinopyridine | 59% yield | O1CCN(CC1)C1=CC=NC=C1 | C9H12N2O
